US06630496B1
Step 1: Methyl 5-Nitro-3-(1-hydroxy)ethylbenzoate
An oven-dried round bottom flask fitted with a magnetic stirring bar was charged with compound methyl 5-nitro-3-acetylbenzoate (0,5 g), prepared in step 1 of Intermediate 13, BH3THF (1 M solution in THF, 5 mol equiv.), and anhydrous THF. After stirring at room temperature for 24 h, H2O (20 mL) was added and the solution was concentrated in vacuo. The residue was taken in H2O (20 mL) and extracted with CHCl3 (3×100 mL). The combined CH2Cl2 extracts were washed with saturated Na2CO3 solution (20 mL), dried over Na2SO4 and filtered. The solvent was removed in vacuo to afford product. This was used in the next step without further purification.

reactant | methyl 5-nitro-3-acetylbenzoate | 0,5 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(C)=O | C10H9NO5
reactant | BH3THF | 5 mol, 1 M | B.C1CCOC1
reactant | THF | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | Methyl 5-Nitro-3-(1-hydroxy)ethylbenzoate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(C)O | C10H11NO5
